US05958496
A solution (35 ml) of 4-N HCl/dioxane was added to 2.65 (10.0 mmols) of N-tert-butoxycarbonyl-(R)-α-methylthiomethylbenzylamine, and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated under reduced pressure, and the residue was concentrated with the addition of 30 ml of ether to obtain (R)-α-methylthiomethylbenzylamine hydrochloride in a quantitative yield.

reactant | HCl dioxane | Cl.O1CCOCC1
reactant | N-tert-butoxycarbonyl-(R)-α-methylthiomethylbenzylamine | C(C)(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)CSC | C14H21NO2S
product | (R)-α-methylthiomethylbenzylamine hydrochloride | quantitative yield | Cl.CSC[C@@H](C1=CC=CC=C1)N | InChI=1S/C9H13NS.ClH/c1-11-7-9(10)8-5-3-2-4-6-8;/h2-6,9H,7,10H2,1H3;1H/t9-;/m0./s1
